US06093718
To a solution of N-tert-butoxycarbonyl isonipecotic acid (12.93 g) in tetrahydrofuran (250 ml) at 0° C. was added a solution of carbonyldiimidazole (8.32 g) in tetrahydrofuran (70 ml). The resulting solution was stirred at ambient temperature for 2 hours. This solution was cooled to 0° C. and a solution of (6-chloro-pyrimidin-4-yl)piperazine hydrochloride (13.25 g) and triethylamine (23.57 ml) in dichloromethane (200 ml) added dropwise over 20 minutes. The suspension obtained was stirred at ambient temperature for 18 hours. The mixture was diluted with dichloromethane and washed with water, 2M aqueous citric acid solution, saturated aqueous sodium bicarbonate solution, dried (Na2SO4) and evaporated to give 1-(tert-butoxycarbonyl)-4-[4-(6-chloro-pyrimidin-4-yl)piperazin-1-ylcarbonyl]piperidine (17.45 G) as a cream solid.

reactant | N-tert-butoxycarbonyl isonipecotic acid | 12.93 g | C(C)(C)(C)OC(=O)N1CCC(C(=O)O)CC1 | C11H19NO4
reactant | carbonyldiimidazole | 8.32 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (6-chloro-pyrimidin-4-yl)piperazine hydrochloride | 13.25 g | Cl.ClC1=CC(=NC=N1)N1CCNCC1
reactant | triethylamine | 23.57 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1-(tert-butoxycarbonyl)-4-[4-(6-chloro-pyrimidin-4-yl)piperazin-1-ylcarbonyl]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)N1CCN(CC1)C1=NC=NC(=C1)Cl | C19H28ClN5O3
